US04560692
(b) 1-[6-chloro-2-(4-chlorophenyl)-4-quinolinyl]-4-piperidinecarboxamide
A mixture of 3.1 g of 4,6-dichloro-2-(4-chlorophenyl)quinoline, 2.56 g (20 mmol) of isonipecotamide, and 10 g of phenol was stirred and heated in an oil bath at 160°-170° for 4 hr. It was then cooled and diluted with water. It was made alkaline with 3N sodium hydroxide, and crystallization was induced by the addition of ether and scratching. The solid was collected and washed with ether to give 2.45 g of crude product. Recrystallization from ethanol gave the above-named compound as off-white prisms, mp 272°-275°.

reactant | 4,6-dichloro-2-(4-chlorophenyl)quinoline | 3.1 g | ClC1=CC(=NC2=CC=C(C=C12)Cl)C1=CC=C(C=C1)Cl | C15H8Cl3N
reactant | isonipecotamide | 20 mmol, 2.56 g | N1CCC(C(=O)N)CC1 | C6H12N2O
reactant | phenol | 10 g | C1(=CC=CC=C1)O | C6H6O
solvent | water | O | H2O
product | 1-[6-chloro-2-(4-chlorophenyl)-4-quinolinyl]-4-piperidinecarboxamide | ClC=1C=C2C(=CC(=NC2=CC1)C1=CC=C(C=C1)Cl)N1CCC(CC1)C(=O)N | C21H19Cl2N3O
